Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with history significant
for obesity s/p Roux-en-Y gastric bypass done (___) who 
presents
to the ED as a transfer from ___ for concern of
abdominal abscess versus pancreatic pseudocyst. 

Patient describes a 3-week history of left-sided abdominal
discomfort and pain. Symptoms have been constant with
intermittent worsening in nature where she describes a crampy
___ abdominal pain. Symptoms not associated with any
nausea, vomiting or diarrhea. She did not have medical insurance
so did not go to hospital. This morning, pain was much worse so
she presented to ___. Patient denies any shortness 
of
breath or chest pain. Otherwise no recent illness. States she 
has
not had an appetite and is only being able to eat a little soup
and grapes. Denies any dysuria or hematuria. No vaginal bleeding
or discharge. Patient is a daily drinker drinking about a box of
wine daily. Last ingestion 5 AM this
morning. No history of alcohol withdrawal seizures. Does not 
feel
like she is withdrawing.

Patient went to ___ had a CT scan done which show a
large complex cystic mass occupying much of the left upper
quadrant extending to the upper left pelvis which may represent
multiple pseudocyst formation from prior pancreatitis. An 
abscess
is also possible. She also had lab work done which were 
pertinent
for a white count of 9.2 with a hematocrit 32.6. AST 63, ALT 26,
alk phos of 241. Lipase of 542. Given CT findings abnormal lab
results, patient transferred here for further eval. She received
1 L of normal saline, morphine and Zofran. Also given Ativan.
Then transferred here for further care.

In the ED: 
VS: Tmax 99.8, P 94, BP 120-140/70-84, RR ___, 94-96% on RA
ECG: QTc 383
PE: benign cardiopulmonary, abdominal and neuro exam
Labs: Lipase 291, AST 62, ALT 23, ALP 229, Tbili 0.6, Albumin
2.9, Utox pos opiates but otherwise all negative
Imaging: RUQUS with borderline dilated CHD, no cholelithiasis, 
no
evidence of biliary obstruction on OSH CT, second opinion read 
of
CT at OSH with likely pancreatic pseudocyst, reactive segmental
colitis
Impression: Pancreatitis, EtOH withdrawal 
Interventions: LR @ 250, Ativan 0.5mg IV, dilaudid 0.5mg IV x 6,
valium 20mg, valium 10mg x3, thiamine/folate/MVI, 2 gm MgSulf
Consults: Bariatric surgery consulted, recommended NPO, IVF,
nutrition labs and admission to medicine for pancreatitis. they
reviewed imaging with radiology noting peripancreatic fluid
collections, no abscess, no necrosis

On arrival to the floor patient requested valium for alcohol
withdrawal. She complained of persistent periumbilical pain 
which
she states has been constant for the past 2 weeks. She also
reported feeling anxious and very shaky with difficulty holding 
a
cup because of the tremors. She states she was feeling like she
was malnourished and questioned why she couldn't eat anything by
mouth. She denies active nausea or vomiting, she denied fevers 
or
chills. States she was given jello and broth earlier today which
she tolerated fine. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative.
 
Past Medical History:
Anxiety
Allergic Rhinitis 
Alcohol Use Disorder / Alcohol Dependence
LTBI s/p INH
History of Roux-en-Y Gastric Bypass - ___
History of breast augmentation

 
Social History:
___
Family History:
 Reviewed and found to be not relevant to this
illness/reason for hospitalization.
 
Physical Exam:
ADMISSION
VITALS: reviewed in POE, ___
GENERAL: Alert, anxious, tremulous
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema. Oropharynx without
visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4. No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, somewhat tender to palpation in
periumbilical and lower quadrants without guarding or rebound. 
Bowel sounds present. No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly
symmetric
SKIN: No obvious rashes or ulcerations noted on cursory skin 
exam
NEURO: tremulous, alert, oriented, face symmetric, speech fluent
but with lag in answering time, moves all limbs
PSYCH: anxious, somewhat difficult to engage, answering in short
sentences with some impairment in attention span and memory
recall but difficult to gauge whether or not this was 
volitional.

DISCHARGE
VS: ___ 0021 Temp: 98.2 PO BP: 102/67 HR: 74 RR: 18 O2 sat:
97% O2 delivery: RA 
Gen - sitting up in bed, comfortable appearing
Eyes - EOMI
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft, nontender to deep palpation; no rebound/guarding;
normal bowel sounds 
Ext - no edema
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate
 
Pertinent Results:
ADMISSION
___ 11:57PM BLOOD WBC-8.8 RBC-3.02* Hgb-9.4* Hct-29.4* 
MCV-97 MCH-31.1 MCHC-32.0 RDW-17.1* RDWSD-60.5* Plt ___
___ 11:57PM BLOOD Glucose-81 UreaN-4* Creat-0.4 Na-139 
K-4.2 Cl-101 HCO3-22 AnGap-16
___ 11:57PM BLOOD ALT-25 AST-68* AlkPhos-231* TotBili-0.5
___ 11:57PM BLOOD Albumin-2.8* Calcium-8.1* Phos-3.4 Mg-1.6 
Iron-48
___ 09:40AM BLOOD ASA-NEG Ethanol-NEG Tricycl-NEG

SECOND OPINION CT TORSO
1. Large complex peripancreatic collection most likely a 
pancreatic 
pseudocyst.  Difficult to exclude a component of pancreatic 
necrosis though overall volume of the pancreas appears 
preserved. 
2. Segmental colitis along the mid transverse and splenic 
flexure likely 
reactive with, given contact by adjacent pancreatic pseudocyst. 
3. Nonspecific peritoneal nodularity along the anterolateral 
right abdominal wall, attention on follow-up. 
4. Hepatic steatosis 
5. Postsurgical changes from Roux-en-Y gastric bypass without 
evidence of 
obstruction. 
6. The appendix is normal. 

LIVER OR GALLBLADDER US
1. Borderline dilated common hepatic duct. On outside hospital 
CT, the common hepatic duct and common bile duct taper gradually 
toward the ampulla without evidence of obstruction. 
2. Peripancreatic fluid collections as assessed on outside 
hospital CT 1 day prior. 
3. No cholelithiasis. 

DISCHARGE
___ 05:06AM BLOOD WBC-4.3 RBC-3.10* Hgb-9.6* Hct-30.7* 
MCV-99* MCH-31.0 MCHC-31.3* RDW-16.9* RDWSD-60.4* Plt ___
___ 05:06AM BLOOD Glucose-82 UreaN-3* Creat-0.5 Na-143 
K-4.4 Cl-103 HCO3-25 AnGap-15
___ 05:06AM BLOOD ALT-25 AST-53* AlkPhos-175* TotBili-0.4
 
Brief Hospital Course:
This is a ___ year old female with past medical history of 
obesity
status post Roux-en-Y gastric bypass, alcohol abuse, admitted 
___ with 2 weeks of persistent abdominal pain found to 
acute pancreatitis with pancreatic pseudocyst, course 
complicated by alcohol withdrawal, treated conservatively with 
subsequent improvement, able to tolerate Bariatric 4 diet, being 
discharged home

# Generalized Abdominal pain secondary to 
# Acute alcohol pancreatitis
# Pancreatic pseudocyst
# Transaminitis 
Patient with history of roux-en-y who presented with 2 weeks of 
abdominal pain in setting of ongoing heavy alcohol use, found to 
have elevated lipase, OSH imaging with suspected pancreatic 
psuedocyst.  She was seen by pancreas consult and bariatric 
surgery consult, was made NPO, started on IV fluids and prn pain 
and nausea medications.  Given question of abnormal material 
seen in gallbladder on CT scan by surgical service, patient 
underwent MRCP to rule out biliary stone or anatomic 
abnormality.  MRCP showed findings consistent with acute 
pancreatitis with extensive peripancreatic fluid collections". 
No gallstones or CBD stones were seen to suggest gallstone 
pancreatitis.  She was recommended for ongoing conservative 
management.  Patient symptoms rapidly improved and she was able 
to rapidly advance her diet.  She subsequently tolerated a 
bariatric 4 diet without issue and demonstrated ability to 
maintain her hydration and nutritional status.  She was weaned 
off pain medications without issue.  Patient able to be 
discharged home.  

# Alcohol abuse complicated by withdrawal
Demonstrated signs of withdrawal on presentation.  Initially 
reported drinking a small amount each day, but later revealed it 
was closer to 5L box of wine over ___ days.  Treated for alcohol 
withdrawal with valium CIWA.  Gave IV thiamin, PO folate, 
multivitamin. CIWA subsequently able to be discontinued and 
patient remained stable x 1 day.  She received counseling from 
social work input, was contemplating quitting and was given 
potential information re; resources for assistance. 

# Peripheral neuropathy 
Reported chronic numbness in feet.  Given her history, suspected 
to be alcohol-related.  Would consider additional workup an 
management of this.  Zinc level pending at discharge. 

# Abnormal MRI Liver
MRCP incidentally showed "Severe hepatic steatosis.".  Would 
consider hepatology referral as outpatient.  Counseled on 
alcohol cessation as above. 

# History of roux-en-y gastric bypass
As surgery was done in ___, patient does not have local 
bariatric provider.  Patient was recommended to establish with 
one. Patient reported that once her ___ gets approved, 
she will establish with a bariatric ___ local to her in 
___. 

# Abnormal CT Abdomen
OSH CT incidentally showed "Nonspecific peritoneal nodularity 
along the anterolateral right abdominal wall."  ___ radiology 
recommended "attention on follow-up."  Would consider discussion 
re: utility of repeat imaging in the future and/or additional 
workup as outpatient. 

Transitional issues
- Discharged home
- Recommended to continue Bariatric 4 diet
- Received alcohol cessation counseling
- Patient reports history of B12 deficiency; would consider 
outpatient evaluation and therapy for this
- Discharged with ___ application pending--patient plans 
to establish with local PCP and ___ in/near 
___ 

> 30 minutes spent on this discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cetirizine 10 mg PO DAILY 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*14 Tablet 
Refills:*0 
2.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth daily Disp 
#*14 Tablet Refills:*0 
3.  Cetirizine 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Acute alcohol pancreatitis
# Pancreatic pseudocyst
# Transaminitis 
# Alcohol abuse complicated by withdrawal
# Peripheral neuropathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___:

It was a pleasure caring for you at ___.  You were admitted 
with abdominal pain and found to have pancreatitis and a fluid 
collection in your pancreas ("pancreatic pseudocyst").  

You were seen by GI specialists and surgeons and underwent 
additional testing.

You improved and are now able to be discharged home.  It will be 
important to avoid all alcohol, as this can cause your 
pancreatitis to occur again.  
 
Followup Instructions:
___